US09422279B2
To a solution of 1-(4-(hydroxymethyl)-3-phenyl-5,6-dihydropyridin-1(2H)-yl)ethanone (86 mg, 0.37 mmol) in DCM (2 mL) was added SOCl2 (0.67 mL, 9.25 mmol). After stirred at RT for 15 min, the mixture was concentrated and was diluted with Sat. NaHCO3 and EtOAc, organic layer was separated and the aqueous layer was extracted with EtOAc, organic layer ere combined, washed with brine, dried and concentrated to give crude oil, which was purified by column (Hexanes/EtOAc=100:0 to 25:75) to give 1-(4-(chloromethyl)-5-phenyl-3,6-dihydropyridin-1(2H)-yl)ethan-1-one (35 mg).

reactant | 1-(4-(hydroxymethyl)-3-phenyl-5,6-dihydropyridin-1(2H)-yl)ethanone | 0.37 mmol, 86 mg | OCC1=C(CN(CC1)C(C)=O)C1=CC=CC=C1 | C14H17NO2
reactant | SOCl2 | 9.25 mmol, 0.67 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(chloromethyl)-5-phenyl-3,6-dihydropyridin-1(2H)-yl)ethan-1-one | 35 mg | ClCC=1CCN(CC1C1=CC=CC=C1)C(C)=O | C14H16ClNO
